Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Percocet / Unasyn
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
___ R BKA

 
History of Present Illness:
___ y/o M with DM2, peripheral neuropathy, chronic RLE ischemia 
and dry gangrene, presented with N/V/D x4 days. Patient reports 
that he has had 10+ episodes of non-bloody watery diarrhea x4 
days, along with NBNB vomiting, and inability to tolerate PO. 
Patient also reports chills and sweats x4 days. He reports that 
his RLE dry gangrene has not changed recently.  
Of note, he was admitted to vascular surgery in ___, when 
he refused vein mapping, and revascularization and was DC'd home 
on augmentin, which he has stopped taking. He missed his 
appointment with Dr. ___ on ___ due to illness.  
At ___, labs sig for ___ 16+, Cr. 1.7. Patient was given 
2LNS, and Unasyn. He developed a rash to unasyn w/o respiratory 
symptom. He was given Benadryl and the infusion was stopped. He 
was then transferred to ___ ED for further vascular eval.  
Initial VS in the ED: 98.4; 173/82; 100; 18; 96%RA. Labs notable 
for WBC 14.9 N81, Cr 1.6. Vascular surgery saw the patient and 
recommended wound care and broad spectrum antibiotics. VS prior 
to transfer: 97.4; 174/92; 92; 16; 99%RA  
 
On the floor, patient complains of frequent diarrhea w/o 
abdominal pain. Reports that he could not tolerate even ice 
chips in the ED.  

 
Past Medical History:
CKD, DM, proteinuria, PNA, HTN, PVD, hyperlipidemia, back pain

PSH: Rt fem-BK pop bypass graft ___. Angioplasty of outflow 
stenosis at the distal anastomosis in ___. 5-graft occluded, 
criticial right common fem occlusion, ABI 0.3     
 
Social History:
___
Family History:
significant for diabetes. 
 
Physical Exam:
Vitals: 98.4; 187/82; 91; 20; 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm left leg with no apparent ulceration.  
Right foot cooler than the left. Dry gangrene/necrosis of right 
___ through ___ toes with no drainage, purulence, fluctuance or 
exudate. There is also a 5x10cm eschar over the right Achilles 
tendon, no drainage  

On Discharge
98.7 80 116/62 18 94%RA
General: A and O x 3
CV: RRR
Lungs: Clear to auscultation
Abdomen: soft non-tender non-distended
Ext: s/p R BKA. Stump clean/dry/intact. Minimal edema. 
Pulses:
R: p/d/BKA
L: p/d/d/d

 
Pertinent Results:
___ 02:10AM   WBC-14.9* RBC-4.43* HGB-11.0* HCT-34.1* 
MCV-77*# MCH-24.8* MCHC-32.2 RDW-15.6*
___ 02:10AM   NEUTS-80.9* LYMPHS-14.3* MONOS-4.4 EOS-0.2 
BASOS-0.2
___ 02:10AM   PLT COUNT-366
___ 02:10AM   GLUCOSE-227* UREA N-36* CREAT-1.6* SODIUM-141 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-25 ANION GAP-15
___ 02:10AM   estGFR-Using this
___ 02:10AM   CALCIUM-8.5 PHOSPHATE-3.4 MAGNESIUM-1.___ y/o M with DM2, peripheral neuropathy, PVD w/ chronic RLE dry 
gangrene s/p R BKA

# Peripheral vascular disease/dry gangrene: Patient with 
longstanding ulcer and has previously refused revascularization 
treatment. Patient underwent BKA without issue on ___. On 
POD 0, foley catheter was placed for urine retention in PACU. 
Subsequently, he failed to void after it was removed and he 
required straight catheterization. He still has not voided and a 
foley was placed prior to discharge. His pain is well controlled 
on dilaudid, ultram and neurontin. On POD 1, the patient was 
tolerating a regular diet without issue. He did have 
constipation on POD1 and was put on a bowel regimen, which 
resulted in a BM. He worked with ___. On POD2, the patient was 
discharged to rehab in good condition. 

# Diabetes: Patient takes levemir ___ at night, along with 
novolog ___ TID premeals at home. ___ consulted for 
management of insulin/diabetes. BG in control at time of 
discharge

# CKD: Cr. 1.8 now. Was 1.5 in ___, and normal prior to 
this. No clear baseline.  
-Creatinine stable. All meds were renally dosed. He will likely 
recover without issue. Urine output adequate on discharge. 

# Peripheral neuropathy:  
- gabapentin dose reduced while inpatient in the setting ___  

- can uptitrate gabapentin back to home dose after discharge  

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Aspirin 81 mg PO DAILY 
2. Levemir *NF* (insulin detemir) ___  Subcutaneous HS 
3. NovoLOG *NF* (insulin aspart) ___ U Subcutaneous TID pre 
meals 
4. Clopidogrel 75 mg PO DAILY 
5. Gabapentin 600 mg PO DAILY 
@ noon 
6. Gabapentin 900 mg PO BID 
morning and evening 
7. Simvastatin 40 mg PO DAILY 
8. tramadol-acetaminophen *NF* 37.5-325 mg Oral q6h:prn pain 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Tamsulosin 0.4 mg PO HS 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*60 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 4 
hours Disp #*60 Tablet Refills:*0
6. Senna 1 TAB PO BID 
7. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Gabapentin 300 mg PO TID 
9. Aspirin 81 mg PO DAILY 
10. Simvastatin 40 mg PO DAILY 
11. Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
12. Metoprolol Tartrate 12.5 mg PO BID 
Hold for SBP < 110, HR < 55 
13. Clopidogrel 75 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Viral gastroenteritis
Right lower extremity dry gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with walker (s/p BKA)

 
Discharge Instructions:
DIVISION OF VASCULAR AND ENDOVASCULAR SURGERY
AMPUTATION DISCHARGE INSTRUCTIONS

ACTIVITY: 
•On the side of your amputation you are non weight bearing for 
___ weeks. 
•You should keep this amputation site elevated when ever 
possible. 
•You may use the opposite foot for transfers and pivots.
•No driving until cleared by your Surgeon.
•No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
•You may shower 
•No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 
WOUND CARE:
•Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
•When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.
CAUTIONS:
•If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
•Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
•Bleeding, redness of, or drainage from your foot wound
•New pain, numbness or discoloration of the skin on the 
effected foot
•Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

WARNING SIGNS:
Fever greater than 101
Redness that is spreading
Pain not adequately relieved with medication
Drainage from wound
Opening of incision
Nausea and vomiting

If you develop any of the above, seek medical attention. 
 
Followup Instructions:
___